US05258378
1,4,5,6,7,8-Hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine
A mixture of 1-phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine (0.48 g), 50% sodium hydroxide (25 ml) and ethanol (50 ml) was refluxed for 75 minutes. The solution was evaporated to half its original volume, diluted with water and the product was extracted into dichloromethane. The extracts were washed with water, dried and evaporated to give an oily solid, which was chromatographed over silica, eluting with dichloromethane and increasing amounts of methanol (1-10%) in dichloromethane to give the title product as a solid, m.p. 90°-91° C. (cyclohexane).

reactant | 1-phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | 0.48 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1C(CN(CC2)C)C2=CC=CC=C2 | C21H22N2O2S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,4,5,6,7,8-Hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | CN1CC(C2=C(CC1)C=CN2)C2=CC=CC=C2 | C15H18N2
